US07470689B2
2-(3-Oxo-6-pyridin-4-yl-2,3-dihydropyridazin-4-yl)-1H-benzimidazole-5-carboxylic acid
A mixture consisting of 500 mg of methyl 4-amino-3-[(3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carbonyl)amino]benzoate, 6 ml of tetrahydrofuran (THF), 6 ml of methanol, 6 ml of water and 173 mg of lithium hydroxide is stirred at 50° C. for 5 hours. After cooling to room temperature, the pH is adjusted to 4-5 with 1N HCl, whereupon a precipitate separates out and is filtered off with suction and then washed with water and dried in vacuo.

reactant | methyl 4-amino-3-[(3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carbonyl)amino]benzoate | 500 mg | NC1=C(C=C(C(=O)OC)C=C1)NC(=O)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C18H15N5O4
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 173 mg | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 6 ml | O | H2O
solvent | methanol | 6 ml | CO | CH4O
product | 2-(3-Oxo-6-pyridin-4-yl-2,3-dihydropyridazin-4-yl)-1H-benzimidazole-5-carboxylic acid | O=C1NN=C(C=C1C1=NC2=C(N1)C=CC(=C2)C(=O)O)C2=CC=NC=C2 | C17H11N5O3
